US04684660
1-[N-(2-Mercaptopropanoyl)-L-alanyl]-4,4-ethylenedioxy-L-proline
Following the procedure of Example 14, but substituting 2-acetylthiopropionic acid for acetylthioacetic acid and L-alanyl-4,4-ethylenedioxy-L-proline for the trifluoroacetic acid salt of L-alanyl-L-proline, yields the title compound.

reactant | acetylthioacetic acid | C(C)(=O)CC(=S)O | C4H6O2S
reactant | L-alanyl-4,4-ethylenedioxy-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CC2(C1)OCCO2 | C10H16N2O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | L-alanyl-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
product | 1-[N-(2-Mercaptopropanoyl)-L-alanyl]-4,4-ethylenedioxy-L-proline | SC(C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CC2(C1)OCCO2)C | C13H20N2O6S
